US06417212B1
The following example exemplifies the general procedure for the parallel synthesis of analogs utilizing the DynaVac carousel. To a 50 mL glass tube with screw cap and nitrogen inlet were charged 2-(2-butyl-5-hydroxyphenoxy)-2-methylpropionic acid ethyl ester, (0.050 g, 0.178 mmol), toluene-4-sulfonic acid 2-(5-methyl-2-bipheny-4-yl-loxazol-4-yl)ethyl ester (0.187 mmol) (see Ex. 1, part F), and powdered potassium carbonate (0.050 g, 0.36 mmol) in 1 mL of absolute ethanol. The mixture was heated to reflux for 18 h. MS analysis of the reaction indicated that 2-{5-[2-(2-biphenyl-4-yl-5-methyloxazol-4-yl)ethoxy]-2-butylphenoxy}-2-methylpropionic acid ethyl ester, MS (ES) m/e 542 (M+1). had formed. Next 0.4 mL of 5 N sodium hydoxide was added and the reaction was heated for 3 h at 55° C. The ethanol was removed in vacuo and the residue was treated with 1 mL of 5N hydrochloric acid and 1 mL of dichloromethane and poured into a 3 mL ChemElute column to remove the aqueous layer. The column was eluted with additional dichloromethane until nothing UV active remained on the column. The solvent was removed in vacuo. The crude residue was purified by mass-directed reverse phase HPLC to provide 2-{5-[2-(2-biphenyl-4-yl-5-methyloxazol-4-yl)ethoxy]-2-butylphenoxy}-2-methylpropionic acid. 1H NMR (400 MHz, CDCl3) δ8.06 (d, J=8.3 Hz, 2H), 7.70 (d, J=8.3 Hz, 2H), 7.64 (d, J=8.3 Hz, 2H), 7.47 (t, J=7.6 Hz, 2H), 7.39 (t, J=7.3 Hz, 1H), 7.04 (d, J=8.3 Hz, 1H), 6.69 (d, J=2.4 Hz, 1H), 6.53 (dd, J=8.3, 2.4 Hz, 1H), 4.20 (t, J=7.6 Hz, 2H), 2.94 (t, J=7.6 Hz, 2H), 2.55 (t, J=7.8 Hz, 2H), 2.38 (s, 3H), 1.64 (s, 6H), 1.55 (quintet, J=7.7 Hz, 2H), 1.35 (sextet, J=7.5 Hz, 2H), 0.93 (t, J=7.3 Hz, 3H), MS (ES) m/e 514 (M+1).

reactant | 2-(2-butyl-5-hydroxyphenoxy)-2-methylpropionic acid ethyl ester | 0.178 mmol, 0.050 g | C(C)OC(C(C)(C)OC1=C(C=CC(=C1)O)CCCC)=O | C16H24O4
reactant | potassium carbonate | 0.36 mmol, 0.050 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-{5-[2-(2-biphenyl-4-yl-5-methyloxazol-4-yl)ethoxy]-2-butylphenoxy}-2-methylpropionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=CC(=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C1=CC=CC=C1)CCCC)=O | C34H39NO5
reactant | sodium hydoxide | 5 N, 0.4 mL | [OH-].[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 2-{5-[2-(2-biphenyl-4-yl-5-methyloxazol-4-yl)ethoxy]-2-butylphenoxy}-2-methylpropionic acid | C1(=CC=C(C=C1)C=1OC(=C(N1)CCOC=1C=CC(=C(OC(C(=O)O)(C)C)C1)CCCC)C)C1=CC=CC=C1 | C32H35NO5
